Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None
attach
 
Pertinent Results:
SIGNIFICANT LABS: 
================
___ 07:06AM BLOOD WBC-6.6 RBC-5.65 Hgb-18.9* Hct-57.8* 
MCV-102* MCH-33.5* MCHC-32.7 RDW-14.0 RDWSD-52.9* Plt ___
___ 07:06AM BLOOD Glucose-102* UreaN-13 Creat-0.8 Na-141 
K-4.0 Cl-102 HCO3-28 AnGap-11
___ 06:30AM BLOOD ALT-28 AST-29 LD(LDH)-243 AlkPhos-75 
TotBili-1.0

EPO pending on discharge

IMAGING/OTHER STUDIES: 
======================

CT torso on admission:
1. No acute intra-abdominal or intrathoracic process.
2. Right lower lobe 3 mm pulmonary nodule For incidentally
detected single solid pulmonary nodule smaller than 6 mm, no CT
follow-up is recommended in a low-risk patient, and an optional
CT in 12 months is recommend in a high-risk patient.

See the ___ ___ Guidelines for the Management 
of
Pulmonary Nodules Incidentally Detected on CT" for comments and
reference:
___

Right wrist X-ray on admission:
A true lateral view of the right wrist was not submitted. Given
this, no acute fracture is seen. Chronic changes at the ulnar
styloid may relate to prior trauma.

CT head on admission:
No acute intracranial process.

CT C-spine on admission: 
No acute cervical fracture.

Multilevel degenerative changes most severe at C5/C6 where there
is mild to moderate central canal narrowing secondary to
degenerative change.

XR right shoulder: 
No acute fracture or dislocation. High riding right humeral head
may relate to rotator cuff disease. 

XR right arm: 
No acute fracture or dislocation. High riding right humeral head
may relate to rotator cuff disease. 
 
8 mm lucency in the proximal right humeral metadiaphysis with
sclerotic margins, appears nonaggressive. 

XR right elbow:
No acute fracture or dislocation is seen. No posterior elbow
joint effusion is seen. Images of the forearm demonstrate no
acute fracture. Chronic change at the ulnar styloid, possibly
from prior fracture. 

XR right forearm:
No acute fracture or dislocation is seen. No posterior elbow
joint effusion is seen. Images of the forearm demonstrate no
acute fracture. Chronic change at the ulnar styloid, possibly
from prior fracture. 

Trauma XR: 
No definite acute intrathoracic process seen.

 
Brief Hospital Course:
___ (divorced father of 2 adult children, reports he is a 
veteran though per wife delusional, ___ does not confirm) with a 
PPHx of bipolar disorder vs schizophrenia, hx of heavy alcohol 
use (per family), no known PMHx prior to admission, hard of 
hearing at baseline who was BIBA on ___ after stealing and 
crashing a car for trauma evaluation, subsequently cleared by 
the trauma team, and admitted for inpatient psychiatric 
placement. 

#  Acute Psychosis: 
Refer to formal psychiatric evaluation provided with discharge 
summary on transfer to inpatient unit. In brief, Patient was 
brought in by ambulance after crashing a stolen vehicle. Had 
full trauma evaluation (see pertinent results for imaging 
results) with no major injuries identified. Per consulting 
psychiatry team: Overall presentation consistent with likely 
manic episode with psychosis, cannot r/o primary psychotic 
disorder. Family provides collateral of longstanding mental 
illness and chronic paranoia with prior psych admission for 
"bipolar and schizophrenia" as
well as a hx of heavy alcohol use. Of note, EtOH level negative 
on admission. While awaiting placement, he was started on 
Depakote sprinkles, though intermittently refused. He did take 
10mg of qHS Zyprexa on the night prior to discharge. He remained 
paranoid with disorganized thought, but was mostly cooperative 
with care and never aggressive towards staff. He is now being 
transferred to an inpatient psychiatry unit for further care. 

# s/p MVA: 
multiple imaging studies done in ED, no fractures, dislocations 
noted. Cleared by trauma team.

# Polycythemia: 
Noted incidentally on labs. Patient denying any symptoms of 
hyperviscosity including HA, vision changes, SOB, or CP. Denies 
ever smoking but unreliable historian. Suspect Polycythemia ___ 
but started investigation with EPO to evaluate primary versus 
secondary causes. If EPO suppressed, will need JAK2 mutation 
testing. Given no associated symptoms, additional workup can be 
deferred until after stabilization of acute psychiatric 
decompensation. 

# Rotator cuff injury:
Patient unable to lift arm above 90 degrees. Exam consistent 
with rotator cuff tear that patient reports is an old 
work-related injury. 

TRANSITIONAL ISSUES:
====================
[] Further workup of Polycythemia after stabilization of acute 
psychiatric decompensation. 

> 30 mins spent on discharge planning

 
Medications on Admission:
none
 
Discharge Medications:
1.  Divalproex Sod. Sprinkles 500 mg PO BID  
2.  OLANZapine 10 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# Acute psychosis, secondary to:
  # suspected manic episode with psychotic features versus 
primary psychotic disorder. 

# S/p MVA with significant injuries
 
Discharge Condition:
Mental Status: paranoid.

Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a privilege to care for you at the ___ 
___. You were admitted after a motor vehicle 
accident. Luckily you did not have any dangerous injuries. You 
are now being transferred to continue receiving psychiatric 
care.

We wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___